US06255496B1
3-[4-[2-(N-Dodecyl-N-methylamino)ethoxy]-2-vinylphenyl]propanoic acid, methyl ester
To a solution of 3-[4-[2-(N-dodecyl-N-methylamino)ethoxy]-2-[trifluoromethanesulfonyloxy]-phenyl]propanoic acid, methyl ester (250 mg, 0.48 mmol) in 1,4dioxane (2.5 ml) were added tributylvinyltin (1.2 ml, 4.0 mmol), lithium chloride (123 mg, 1.44 mmol), tetrakis(triphenylphosphine)-palladium(0) (10 mg) and 2,6-di-tert-butyl-4-methylphenol (10 mg). The resulting mixture was then stirred at 100° C. for 5 h. After cooling to r.t., the mixture was diluted with diethyl ether, washed with water, brine, dried over magnesium sulfate and concentrated in vacuo. The residue was chromatographed on silica gel (diethyl ether/acetone 100:0 to 80:20) to afford the title compound (170 mg, 80%) as a yellow oil.

reactant | 3-[4-[2-(N-dodecyl-N-methylamino)ethoxy]-2-[trifluoromethanesulfonyloxy]-phenyl]propanoic acid, methyl ester | 0.48 mmol, 250 mg | C(CCCCCCCCCCC)N(C)CCOC1=CC(=C(C=C1)CCC(=O)OC)OS(=O)(=O)C(F)(F)F | C26H42F3NO6S
reactant | tributylvinyltin | 4.0 mmol, 1.2 ml | C(CCC)C(=C(CCCC)CCCC)[Sn]
reactant | lithium chloride | 1.44 mmol, 123 mg | [Cl-].[Li+]
reactant | 2,6-di-tert-butyl-4-methylphenol | 10 mg | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
solvent | 1,4dioxane | 2.5 ml | O1CCOCC1 | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | tetrakis(triphenylphosphine)-palladium(0) | 10 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-[4-[2-(N-Dodecyl-N-methylamino)ethoxy]-2-vinylphenyl]propanoic acid, methyl ester | 170 mg, 80% | C(CCCCCCCCCCC)N(C)CCOC1=CC(=C(C=C1)CCC(=O)OC)C=C | C27H45NO3
